US08486297B2
5.0 g (24.4 mmol) of 2-bromo-5-propylthiophene, 7.40 g (26.8 mmol) of 4′-propyl-3,5-difluoro-4-biphenylboronic acid and 2.82 g (2.44 mmol) of tetrakis(triphenylphosphine)palladium(0) are initially introduced in 160 ml of toluene. A solution of 5.85 g (48.8 mmol) of sodium dihydrogenphosphate and 13.8 g (97.5 mmol) of disodium hydrogenphosphate dodecahydrate in 50 ml of water is added, and the mixture is heated under reflux for 19 h. After cooling, the organic phase is separated off, and the aqueous phase is extracted a number of times with toluene. The combined organic phases are washed with water and sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to completion. The residue is purified by column chromatography (SiO2, n-heptane). Further purification is carried out by recrystallisation from ethanol and n-heptane; 2-(3,5-difluoro-4′-propylbiphenyl-4-yl)-5-propylthiophene (PUS-3-3) is obtained as a colourless solid (m.p. 64° C.).

reactant | 2-bromo-5-propylthiophene | 24.4 mmol, 5.0 g | BrC=1SC(=CC1)CCC | C7H9BrS
reactant | 4′-propyl-3,5-difluoro-4-biphenylboronic acid | 26.8 mmol, 7.40 g | C(CC)C1=CC=C(C=C1)C1=CC(=C(C(=C1)F)B(O)O)F | C15H15BF2O2
reactant | sodium dihydrogenphosphate | 48.8 mmol, 5.85 g | P(=O)(O)(O)[O-].[Na+]
reactant | disodium hydrogenphosphate dodecahydrate | 97.5 mmol, 13.8 g | O.O.O.O.O.O.O.O.O.O.O.O.P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.44 mmol, 2.82 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3,5-difluoro-4′-propylbiphenyl-4-yl)-5-propylthiophene | FC=1C=C(C=C(C1C=1SC(=CC1)CCC)F)C1=CC=C(C=C1)CCC | C22H22F2S
